US06291455B1
A mixture of 4-(3-acetoxy-4-methylanilino)-7-benzyloxy-6-methoxyquinazoline (2.68 g, 5.75 mmol) and 10% palladium-on-charcoal catalyst (0.27 g) in methanol (50 ml), DMF (12 ml) and trichloromethane (50 ml) was stirred at ambient temperature under hydrogen at 1.5 atmospheres pressure for 30 minutes. The catalyst was removed by filtration through diatomaceous earth and the solvent removed from filtrate by evaporation. The residue was triturated with ether, collected by filtration and dried under vacuum at 50° C. to give 4-(3-acetoxy-4-methylanilino)-7-hydroxy-6-methoxyquinazoline (2.1 g, 100%).

reactant | 4-(3-acetoxy-4-methylanilino)-7-benzyloxy-6-methoxyquinazoline | 5.75 mmol, 2.68 g | C(C)(=O)OC=1C=C(NC2=NC=NC3=CC(=C(C=C23)OC)OCC2=CC=CC=C2)C=CC1C | C25H23N3O4
catalyst | palladium-on-charcoal | 0.27 g | [Pd] | Pd
solvent | methanol | 50 ml | CO | CH4O
solvent | DMF | 12 ml | CN(C)C=O | C3H7NO
solvent | trichloromethane | 50 ml | ClC(Cl)Cl | CHCl3
product | 4-(3-acetoxy-4-methylanilino)-7-hydroxy-6-methoxyquinazoline | 2.1 g, 100% | C(C)(=O)OC=1C=C(NC2=NC=NC3=CC(=C(C=C23)OC)O)C=CC1C | C18H17N3O4
